US05264433
To a solution of (3RS)-1-cyanomethyl-1,3-dihydro-5phenyl-3-phthalimido-2H-1,4-benzodiazepin-2 -one (100.0 g) and sodium azide (46.4 g) in 1-methyl-2-pyrrolidone (1.74 l) was added triethylamine hydrochloride (49.1 g) under stirring. The mixture was heated on an oil-bath at 145° C. and stirred for 4 hours. The reaction mixture was poured into 5% hydrochloric acid (4.8 l) under cooling and stirring. The resultant precipitate was collected by filtration, washed with water several times and dried in vacuo at 50° C. for 5 hours to afford (3RS)-1,3-dihydro-5-phenyl-3-phthalimido-1-[(1H-tetrazol-5-yl)methyl]-2H-1,4 -benzodiazepin-2-one (100.39 g).

reactant | (3RS)-1-cyanomethyl-1,3-dihydro-5phenyl-3-phthalimido-2H-1,4-benzodiazepin-2 -one | 100.0 g | C(#N)CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)N2C(C=1C(C2=O)=CC=CC1)=O)=O | C25H16N4O3
reactant | sodium azide | 46.4 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 49.1 g | Cl.C(C)N(CC)CC
reactant | hydrochloric acid | 4.8 l | Cl | ClH
solvent | 1-methyl-2-pyrrolidone | 1.74 l | CN1C(CCC1)=O | C5H9NO
product | (3RS)-1,3-dihydro-5-phenyl-3-phthalimido-1-[(1H-tetrazol-5-yl)methyl]-2H-1,4 -benzodiazepin-2-one | 100.39 g | C1(=CC=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)CC2=NN=NN2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C25H17N7O3
